US07863444B2
Neopentylchloroformate (28 uL, 0.186 mmol) was added dropwise to a stirring solution of 5-(4-amino-3-methoxyphenyl)-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (50 mg, 0.155 mmol) in pyridine (1 mL) and dichloromethane (1 mL) under nitrogen at 0° C. After 10 minutes, the ice water bath was removed and the resulting mixture was stirred for 4 hours. The solvent was evaporated and the residue was taken into ethyl acetate. The organic layer was washed, dried and evaporated. The solid was purified by preparative TLC using dichloromethane/methanol (95:5) as the mobile phase to give neopentyl N-[4-(4-amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate. 1H NMR (CDCl3) δ 1.00 (s 9H), 1.78 (m, 2H), 1.90 (m, 4H), 2.26 (m, 2H), 3.91 (s, 2H), 3.94 (s, 3H), 5.22 (m, 3H), 6.22 (s, 1H), 7.01 (s, 1H), 7.08 (d, J=8 Hz, 1H), 7.25 (s, 1H), 8.17 (br. d, 1H), 8.32 (s, 1H); LC/MS (MH+=438).

reactant | Neopentylchloroformate | 0.186 mmol, 28 uL | C(C(C)(C)C)OC(=O)Cl | C6H11ClO2
reactant | 5-(4-amino-3-methoxyphenyl)-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.155 mmol, 50 mg | NC1=C(C=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2CCCC2)OC | C18H21N5O
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | neopentyl N-[4-(4-amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(OCC(C)(C)C)=O)OC)C2CCCC2 | C24H31N5O3
